US07696200B2
A solution of 7-bromo-1-(5-chloro-2-methoxy-benzenesulfonyl)-1,4-dihydro-2H-benzo[d][1,3]oxazine (2.00 g, 4.78 mmol), triethylamine (1.21 g, 11.9 mmol), and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium dichloromethane complex (200 mg, 0.239 mmol) in methanol (30 mL) and ethyl acetate (30 mL) was heated at 130° C. under a carbon monoxide atmosphere (100 bar) for 3 h. The reaction mixture was evaporated and the residue chromatographed (SiO2, heptane-ethyl acetate gradient) to produce 1-(5-chloro-2-methoxy-benzenesulfonyl)-1,4-dihydro-2H-benzo[d][1,3]oxazine-7-carboxylic acid methyl ester (825 mg, 43%). Orange solid, MS (ISP)=398.1 (M+H)+.

reactant | 7-bromo-1-(5-chloro-2-methoxy-benzenesulfonyl)-1,4-dihydro-2H-benzo[d][1,3]oxazine | 4.78 mmol, 2.00 g | BrC=1C=CC2=C(N(COC2)S(=O)(=O)C2=C(C=CC(=C2)Cl)OC)C1 | C15H13BrClNO4S
reactant | triethylamine | 11.9 mmol, 1.21 g | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 30 mL | CO | CH4O
product | 1-(5-chloro-2-methoxy-benzenesulfonyl)-1,4-dihydro-2H-benzo[d][1,3]oxazine-7-carboxylic acid methyl ester | 825 mg, 43% | COC(=O)C=1C=CC2=C(N(COC2)S(=O)(=O)C2=C(C=CC(=C2)Cl)OC)C1 | C17H16ClNO6S
